US08754226B2
(S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one hydrochloride (prepared according to the method of Example 45) (0.35 g, 0.862 mmol), 2-chloro-5-ethylpyrimidine (0.123 g, 0.862 mmol) and DIEA (0.334 g, 2.59 mmol) were dissolved in DMF (5 mL) and The reaction was stirred at 100° C. overnight. The reaction was cooled to ambient temperature and concentrated. The residue was purified over silica gel (50-100% EtOAc in hexanes) to afford (S)-1′-(5-ethylpyrimidin-2-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one (0.142 g, 0.299 mmol, 34.6% yield) as a yellow solid. Mass spectrum (apci) m/z=476.2 (M+H).

reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one hydrochloride | Cl.FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CCC1)C1CCNCC1)=O
reactant | 2-chloro-5-ethylpyrimidine | 0.862 mmol, 0.123 g | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | DIEA | 2.59 mmol, 0.334 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-1′-(5-ethylpyrimidin-2-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one | 0.299 mmol, 0.142 g, 34.6% yield | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1C([C@H](CCC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C23H30FN5O3S
